US06642240B2
2-(3-Isopropyl-phenyl)-pyrazine
To a solution of commercial 3-isopropyl-benzene boronic acid (1.0 g) in a 2:2:1 mixture of toluene/1M Na2CO3/EtOH (122 mL), at r.t.,2-chloropyrazine (599 μL) and the bis[1,2-bis(diphenylphosphino)ethane]-palladium(0) catalyst (110 mg) were added. The reaction mixture was heated at 80° C. for 3 hr. It was then cooled down and partitioned between AcOEt/sat.aq. NaCl. The phases were separated and the organic layer was dried. The solids were filtered and the solvent evaporated. The crude oil was purified by flash chromatography (CH/AcOEt 7:3) obtaining the title compound as a clear oil (468 mg).

reactant | 3-isopropyl-benzene boronic acid | 1.0 g | C(C)(C)C=1C=C(C=CC1)B(O)O | C9H13BO2
reactant | 2-chloropyrazine | 599 μL | ClC1=NC=CN=C1 | C4H3ClN2
catalyst | bis[1,2-bis(diphenylphosphino)ethane]-palladium(0) | 110 mg | C1=CC=C(C=C1)P(CCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.C1=CC=C(C=C1)P(CCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.[Pd]
solvent | toluene | 1M, 122 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Isopropyl-phenyl)-pyrazine | 468 mg | C(C)(C)C=1C=C(C=CC1)C1=NC=CN=C1 | C13H14N2
